US07129235B2
methyl 1-benzyl-5-oxo-2-pyrrolidinecarboxylate
1-Benzyl-5-oxo-2-pyrrolidinecarboxylic acid (9.69 g, 44.2 mmol) in methanol (75 mL) was treated with sulfuric acid (0.5 mL) and refluxed for 2.5 hours. The mixture was allowed to cool to room temperature and concentrated under reduced pressure. The residue was dissolved in ethyl acetate and washed with saturated sodium bicarbonate solution. The ethyl acetate phase was concentrated under reduced pressure to provide the title compound which was used in the next step without further purification.

reactant | 1-Benzyl-5-oxo-2-pyrrolidinecarboxylic acid | 44.2 mmol, 9.69 g | C(C1=CC=CC=C1)N1C(CCC1=O)C(=O)O | C12H13NO3
reactant | sulfuric acid | 0.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 75 mL | CO | CH4O
product | methyl 1-benzyl-5-oxo-2-pyrrolidinecarboxylate | C(C1=CC=CC=C1)N1C(CCC1=O)C(=O)OC | C13H15NO3
